US06150362
N-[4-(4,6-diamino-1,3,5-triazin-2-yl)phenyl]-2-naphthalenesulfonamide
6-(4-Aminophenyl)-1,3,5-triazine-2, 4diamine was processed as in Example 23 but substituting 2-naphthalenesulfonyl chloride for benzenesulfonyl chloride to provide the title compound.

reactant | 6-(4-Aminophenyl)-1,3,5-triazine-2, 4diamine | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N)N | C9H10N6
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[4-(4,6-diamino-1,3,5-triazin-2-yl)phenyl]-2-naphthalenesulfonamide | NC1=NC(=NC(=N1)N)C1=CC=C(C=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C19H16N6O2S
